### PR TITLE
feat(GreensOpenProblems): 72 / No-3-in-line problem

### LINKED ISSUE #1692: Green's Open Problems #72
### What is the conjecture
What is the largest subset of the grid $[N]^2$ with no three points in a line? In particular, for $N$ sufficiently large is it impossible to have a set of size $2N$ with this property?

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-52

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by felixpernegger**
In the Wikipedia page there is some mention of an alternative asymptotic behaviour for no 3 in line, but I numerical evidence as well as [this](https://arxiv.org/abs/2510.17743) paper point to the opposite anyways, so I dont think we have to add it for now.

Closes #1692.

### CODE REVIEW

File: FormalConjectures/GreensOpenProblems/72.lean [hunk 1]
```diff
@@ -0,0 +1,91 @@
...
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Ben Green's Open Problem 62
+
+More commonly known as the **no-three-in-line problem** problem.
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/72.lean]: Your sentence has a problem problem

File: FormalConjectures/GreensOpenProblems/72.lean [hunk 2]
```diff
@@ -0,0 +1,91 @@
...
+structure AllowedSet (k : ℕ) (N : ℕ) (s : Finset (Fin 2 → ℕ)) : Prop where
+  is_bounded : ∀ i ∈ s, i 0 < N ∧ i 1 < N
+  not_collinear : ∀ ⦃t : Finset (Fin 2 → ℕ)⦄, t ⊆ s → t.card = k →
+    Collinear ℝ ({r | ∃ i ∈ s, r = (fun j ↦ (↑(i j) : ℝ))} : Set (Fin 2 → ℝ))
+
+/-- The maximal size of an allowed set -/
+noncomputable def AllowedSetSize (k : ℕ) (N : ℕ) : ℕ :=
+  sSup {r | ∃ s, r = s.card ∧ AllowedSet N k s}
+
+/-- By pigeon hole principle, AllowedSetSize $k$ $N$ $\leq (k - 1) * N$ for $N \geq k$ -/
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/72.lean]: Please don't mix lean and latex

File: FormalConjectures/GreensOpenProblems/72.lean [hunk 3]
```diff
@@ -0,0 +1,91 @@
...
+@[category high_school, AMS 05 52]
+theorem allowed_set_size_le {k : ℕ} {N : ℕ} (h : k ≤ N) :
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/72.lean]:
```suggestion
theorem allowedSetSize_le {k : ℕ} {N : ℕ} (h : k ≤ N) :
```

File: FormalConjectures/GreensOpenProblems/72.lean [hunk 4]
```diff
@@ -0,0 +1,91 @@
...
+- [Wikipedia](https://en.wikipedia.org/wiki/No-three-in-line_problem)
+- [GK2025] Grebennikov, A. Kwan, M. No $(k + 1)$-in-line problem for large constant $k$.
+  https://arxiv.org/abs/2510.17743
+-/
+
+namespace Green72
+
+/-- We say a subset of $[N]^2$ is allowed for some $k$ if it contains no $k$ points
+which lie on a common line. -/
+structure AllowedSet (k : ℕ) (N : ℕ) (s : Finset (Fin 2 → ℕ)) : Prop where
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/72.lean]:
```suggestion
structure AllowedSet (k : ℕ) (N : ℕ) (s : Finset (ℕ \times ℕ)) : Prop where
```
feels more concrete

File: FormalConjectures/GreensOpenProblems/72.lean [hunk 5]
```diff
@@ -0,0 +1,92 @@
...
+/-- $N, k$ when the AllowedSetSize of $N$ for $k$ is $k * N$. -/
+def NoKinLineFor (k : ℕ) (N : ℕ) : Prop :=
+  AllowedSetSize k N = (k - 1) * N
+
+/-- The **no-k-in-line problem**:
+For $N \geq k$ and $k > 1$, the AllowedSetSize in $(k - 1) * N$, i. e. on an $N \times N$ subset,
+there is a set of $k * N$ points for which no $k$ lie on a line (and not such a set of bigger size).
+-/
+@[category research open, AMS 05 52]
+theorem NoKinLine {k : ℕ} {N : ℕ} (h : k ≤ N) : NoKinLineFor k N := by
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/72.lean]: Where is k > 1 gone in the formal statement?

File: FormalConjectures/GreensOpenProblems/72.lean [hunk 6]
```diff
@@ -0,0 +1,92 @@
...
+alias no_three_in_line := green_62
+
+/-- Does the no-three-in-line problem hold when $N$ is big enough? -/
+@[category research open, AMS 05 52]
+theorem green_62.variants.eventually : ∀ᶠ N in Filter.atTop, NoKinLineFor 3 N := by
+  sorry
+
+/-- For $N \leq k$, this has been verfied with computers. -/
+@[category research solved, AMS 05 52]
+theorem no_three_in_line_le {N : ℕ} (hN : 3 ≤ N) (hN' : N ≤ 60) :
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/72.lean]: The docstring doesn't match

File: FormalConjectures/GreensOpenProblems/72.lean [hunk 7]
```diff
@@ -0,0 +1,92 @@
...
+
+/-- By the pigeon hole principle, the size of a subset of an $N \times N$ grid such that no $k$
+points lie on a line is bounded by $\leq (k - 1) * N$ for $N \geq k$. -/
+@[category high_school, AMS 05 52]
+theorem allowedSetSize_le {k : ℕ} {N : ℕ} (h : k ≤ N) :
+    AllowedSetSize k N ≤ (k - 1) * N := by
+  sorry
+
+/-- $N, k$ when the AllowedSetSize of $N$ for $k$ is $k * N$. -/
+def NoKinLineFor (k : ℕ) (N : ℕ) : Prop :=
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/72.lean]:
```suggestion
def NoKInLineFor (k : ℕ) (N : ℕ) : Prop :=
```
